US09212187B2
Synthesis of 7,7′-azanediylbis(methylene)bis(1-ethyl-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4-dione)
10% Palladium on carbon(0.3 g) was added to an acetic acid solution (20 ml) of 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile(1.4 g), and catalytic reduction was carried out at room temperature under 4 atm. The catalyst was removed by celite filtration, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1→5:5). The purified product was condensed under reduced pressure to give the title compound(0.19 g) as a colorless oily matter.

reactant | 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile | 1.4 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C#N | C15H17N3O2
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7,7′-azanediylbis(methylene)bis(1-ethyl-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4-dione) | 0.19 g | N(CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C30H39N5O4
